US09211280B2
Preparation of (E)-2-Bromo-N′-methyl-N′-propionyl-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzohydrazide (F11)
Prophetically, (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzoic acid can be reacted with N-methylpropionohydrazide in the presence of N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride (EDC.HCl) and DMAP in 1,2-dichloroethane (DCE) to furnish the title molecule (Org. Lett. 2004, 6, 929-931).

reactant | (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzoic acid | BrC1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C17H9BrCl3F3O2
reactant | N-methylpropionohydrazide | CN(N)C(CC)=O | C4H10N2O
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | (E)-2-Bromo-N′-methyl-N′-propionyl-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzohydrazide | BrC1=C(C(=O)NN(C(CC)=O)C)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H17BrCl3F3N2O2
